US05728835
4-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3,4-dimethylphenyl)benzamide
Using 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3,4-dimethylphenyl)benzamide (333.1 mg, 0.70 mmol) and acetic anhydride (0.080 ml, 0.85 mmol), the procedure of Inventive Example 94 was repeated to obtain 359.9 mg (99.7%) of the title compound in a light brown amorphous form.

reactant | 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3,4-dimethylphenyl)benzamide | 0.70 mmol, 333.1 mg | NC1=CC=C(C(=O)N(C2=CC(=C(C=C2)C)C)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C29H32FN3O2
reactant | acetic anhydride | 0.85 mmol, 0.080 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-Acetylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3,4-dimethylphenyl)benzamide | 359.9 mg, 99.7% | C(C)(=O)NC1=CC=C(C(=O)N(C2=CC(=C(C=C2)C)C)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C31H34FN3O3
